US07678794B2
Synthesis of N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-isophthalamic acid
Add 1N lithium hydroxide (20 mL) to a solution of N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-isophthalamic acid methyl ester (1.75 g, 3.79 mmol) in tetrahydrofuran (15 mL) and ethanol (10 mL). Stir overnight at room temperature. Dilute with water. Acidify with 1N hydrochloric acid. Concentrate to remove organic solvents; filter and wash with water several times, then with hexanes. Dry to afford the title compound as an off-white powder (1.54 g, 91%): 1H NMR (DMSO-d6) δ 0.89 (t, 3H), 1.51 (sextet, 2H), 2.58 (s, 3H), 2.63 (t, 2H), 5.27 (s, 2H), 6.74 (d, 1H), 7.20 (d, 1H), 7.40 (t, 1H), 7.65-7.71 (m, 2H), 7.81 (d, 1H), 7.97 (s, 1H), 8.14 (d, 1H), 8.18 (d, 1H), 8.52 (s, 1H), 10.51 (s, 1H), 12.85 (s, 1H), 13.43 (bs, 1H); MS (APCI-neg mode) m/z (rel intensity) 446 (100).

reactant | lithium hydroxide | 1N, 20 mL | [OH-].[Li+]
reactant | N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-isophthalamic acid methyl ester | 3.79 mmol, 1.75 g | COC(C1=CC(C(=O)NC2=CC(=CC=C2)COC2=C(C(=C(C=C2)C(C)=O)O)CCC)=CC=C1)=O | C27H27NO6
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-isophthalamic acid | 1.54 g, 91% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)NC(C=2C=C(C(=O)O)C=CC2)=O)C=C1)CCC)O | C26H25NO6
